US05158936
N-Benzyloxycarbonyl-L-Phenylalanyl-L-Alanine and Other Compounds of Formula (2)
N-Benzyloxycarbonyl-L-phenylalanyl-Nε -trifluoroacetyl-L-lysine (m.p. 143°-147° C.) from N-benzyloxycarbonyl-L-phenylalanine and Nε -trifluoroacetyl-L-lysine (A. T. Moore, et al., J. Chem. Soc. (C), 2349-2359 (1966)).

reactant | N-Benzyloxycarbonyl-L-phenylalanyl-Nε -trifluoroacetyl-L-lysine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCCNC(C(F)(F)F)=O)C(=O)O | C25H28F3N3O6
reactant | N-benzyloxycarbonyl-L-phenylalanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | Nε -trifluoroacetyl-L-lysine | FC(C(=O)NCCCC[C@H](N)C(=O)O)(F)F | C8H13F3N2O3
product | N-Benzyloxycarbonyl-L-Phenylalanyl-L-Alanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O | C20H22N2O5
